US05733914
To a suspension of NaH (60% in mineral oil, 27 mg) in 5 mL of 2-ethoxyethanol was added 3-thiopheneacetonitrile (168 mg, 1.36 mmol). After stirring for 5 minutes at room temperature, 4-ethylamino-2-phenylamino-pyrimidine-5-carbaldehyde (300 mg, 1.24 mmol) was added, and the reaction heated at 120° C. for 2 hours, resulting in a dark brown solution. Upon cooling, the solution was poured into water which caused precipitation. The resulting precipitate was removed by filtration and washed with water. The crude product was purified by flash chromatography, eluting with 5% methanol/methylene chloride, followed by 10% methanol/methylene chloride. Concentration of product fractions yielded 340 mg (78%) of (8-ethyl-7-imino-6-thiophen-3-yl-7,8-dihydro-pyrido[2,3-d]pyrimidin-2-yl)-phenylamine; mp 220°-222° C.

reactant | NaH | 27 mg | [H-].[Na+]
reactant | 3-thiopheneacetonitrile | 1.36 mmol, 168 mg | S1C=C(C=C1)CC#N | C6H5NS
reactant | 4-ethylamino-2-phenylamino-pyrimidine-5-carbaldehyde | 1.24 mmol, 300 mg | C(C)NC1=NC(=NC=C1C=O)NC1=CC=CC=C1 | C13H14N4O
reactant | water | O | H2O
solvent | 2-ethoxyethanol | 5 mL | C(C)OCCO | C4H10O2
product | (8-ethyl-7-imino-6-thiophen-3-yl-7,8-dihydro-pyrido[2,3-d]pyrimidin-2-yl)-phenylamine | 340 mg, 78% | C(C)N1C(C(=CC2=C1N=C(N=C2)NC2=CC=CC=C2)C2=CSC=C2)=N | C19H17N5S
